US05486624
0.81 g(4.5 mmol) of 3,4-dihydroxycinnamic acid and 0.18 g (4.5 mmol) of sodium hydroxide were dissolved into 40 ml of methanol. Residues obtained after distillating in methanol dissolved into 70 ml of N,N-dimethylformamide and 0.65 g (4.05 mmol) of chlorokojic acid prepared in the Reference Example was added thereto. The resulting mixture was heated with stirring for 2 hours in an oil bath of 110° C. After distillating the solvent, the residue was dissolved in 300 ml of ethyl acetate. The ethyl acetate solution was washed with 5% hydrochloric acid and distilled water, dried over magnesium sulfate, decolored with active charcoal and filtered. The filtrate was concentrated to give 0.66 g(48.8%) of 2-(3,4-dihydroxycinnamoyl) oxymethyl-5-hydroxy-4H-pyran-4-one as a solid.

reactant | 3,4-dihydroxycinnamic acid | 4.5 mmol, 0.81 g | OC=1C=C(C=CC(=O)O)C=CC1O | C9H8O4
reactant | sodium hydroxide | 4.5 mmol, 0.18 g | [OH-].[Na+]
reactant | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
reactant | chlorokojic acid | 4.05 mmol, 0.65 g | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
product | 2-(3,4-dihydroxycinnamoyl) oxymethyl-5-hydroxy-4H-pyran-4-one | 0.66 g, 48.8% | OC=1C=C(C=CC(=O)OCC=2OC=C(C(C2)=O)O)C=CC1O | C15H12O7
